US08193199B2
A solution of (8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinolin-3-yl)-methanol (0.3016 g, 0.8479 mmol) in chloroform (2.826 mL, 0.8479 mmol) was treated with thionyl chloride (0.3085 mL, 4.239 mmol) dropwise, and the reaction mixture was stirred at room temperature. After 3 h, the mixture was concentrated under reduced pressure and co-evaporated three times with CH2Cl2 to give 8-chloro-3-(chloromethyl)-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinoline hydrochloride as a yellow syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.76 (1H, s), 8.11 (1H, dd, J=8.2, 1.2 Hz), 7.99-8.07 (2H, m), 7.60-7.75 (3H, m), 4.63-4.90 (2H, m); LC-MS (ESI) m/z [M+H]+ (Exact Mass of neutral form: 373.005). The yellow syrup was carried on crude without purification for the next step.

reactant | (8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinolin-3-yl)-methanol | 0.8479 mmol, 0.3016 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)C(F)(F)F)CO | C17H10ClF4NO
reactant | chloroform | 0.8479 mmol, 2.826 mL | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 4.239 mmol, 0.3085 mL | S(=O)(Cl)Cl | Cl2OS
product | 8-chloro-3-(chloromethyl)-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinoline hydrochloride | Cl.ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)C(F)(F)F)CCl | InChI=1S/C17H9Cl2F4N.ClH/c18-8-10-6-9-2-1-3-14(19)16(9)24-15(10)12-7-11(20)4-5-13(12)17(21,22)23;/h1-7H,8H2;1H
